US05149700
Step 2) Preparation of 2-Chloro-1-methylbenzimidazole
According to the procedure D. Harrison, et al., J. Chem. Soc., 2930, 1963, to a cooled (5° C.), stirred solution of 2-chlorobenzimidazole (26.1 g, 0.171 mol) in DMF (125 mL) was added NaH (60% dispersion in mineral oil; 7.2 g, 0.180 mol) in several portions. After 30 minutes MeI (25.5 g, 0.180 mol) was added. The cooling bath was removed and stirring was continued for 30 minutes. The mixture was recooled, H2O (200 mL) was added, and the resulting precipitate was collected by filtration to give 20.2 g (71%) of product as an off-white solid m.p. 107°-109° C.

reactant | 2-chlorobenzimidazole | 0.171 mol, 26.1 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | NaH | 0.180 mol, 7.2 g | [H-].[Na+]
reactant | MeI | 0.180 mol, 25.5 g | CI | CH3I
solvent | DMF | 125 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-1-methylbenzimidazole | 20.2 g, 71% | ClC1=NC2=C(N1C)C=CC=C2 | C8H7ClN2
